US06005109
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(5-[3-hydroxypropyl]-2-methylbenzoyl)-3-methylthiopyrazole
A solution of 0.530 g (1.0 mmol) of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(5- [β-methoxycarbonylethyl]-2-methylbenzoyl)-3-methylthiopyrazole in 10 mL of THF was cooled in an ice bath while 1.33 mL of a 1.5 M solution of DIBAL in THF was added. The reaction mixture was warmed to room temperature and then quenched with water. The product was extracted into EtOAc, dried and concentrated. The residues were chromatographed on silica gel using mixtures of hexane/EtOAc to elute the title product which was isolated as an amorphous foam, 174 mg (34%). Anal. Calcd. for C22H20O2N3SCl2F3 : C, 50.97; H, 3.88; N, 8.10. Found, C, 51.10; H, 3.96; N, 7.60.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(5- [β-methoxycarbonylethyl]-2-methylbenzoyl)-3-methylthiopyrazole | 1.0 mmol, 0.530 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)SC)C(C1=C(C=CC(=C1)CCC(=O)OC)C)=O | C23H20Cl2F3N3O3S
reactant | DIBAL | CC(C)C[AlH]CC(C)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(5-[3-hydroxypropyl]-2-methylbenzoyl)-3-methylthiopyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)SC)C(C1=C(C=CC(=C1)CCCO)C)=O | C22H20Cl2F3N3O2S
